US04954509
1-dimethylaminomethyl-2-(3,4-dichlorophenyl)acetyl-6-hydroxy-1,2,3,4-tetrahydroisoquinoline.
Prepared as Ex. No. 5, from 5 g (13.58 mmoles) of 1-dimethylaminomethyl-6-hydroxy-1,2,3,4-tetrahydroisoquinoline dihydrobromide, 3.7 g (18.13 mmoles) of 3,4-dichlorophenylacetic acid, 5 ml (35.57 mmoles) of triethylamine and 5.6 g (27.32 mmoles) of dicyclohexylcarbodiimide in 125 ml of dry chloroform.

reactant | 1-dimethylaminomethyl-6-hydroxy-1,2,3,4-tetrahydroisoquinoline dihydrobromide | 13.58 mmoles, 5 g | Br.Br.CN(C)CC1NCCC2=CC(=CC=C12)O
reactant | 3,4-dichlorophenylacetic acid | 18.13 mmoles, 3.7 g | ClC=1C=C(C=CC1Cl)CC(=O)O | C8H6Cl2O2
reactant | triethylamine | 35.57 mmoles, 5 ml | C(C)N(CC)CC | C6H15N
reactant | dicyclohexylcarbodiimide | 27.32 mmoles, 5.6 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | chloroform | 125 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-dimethylaminomethyl-2-(3,4-dichlorophenyl)acetyl-6-hydroxy-1,2,3,4-tetrahydroisoquinoline | CN(C)CC1(NCCC2=CC(=CC=C12)O)C(CC1=CC(=C(C=C1)Cl)Cl)=O | C20H22Cl2N2O2
